US05686481
5-Carboxymethoxy-1-(2-carboxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylic acid
Ethyl 5-carboethoxymethoxy-1-(2-carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate. The title compound was prepared from ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate (150 mg, 0.26 mmol) and ethyl bromoacetate (55 mg, 0.33 mmol) by the method given in example 7b (119 mg, 69%).

reactant | Ethyl 5-carboethoxymethoxy-1-(2-carboethoxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate | C(=O)(OCC)COC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C(C=C1)OC)OCC(=O)OCC)C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C34H35NO11
reactant | ethyl 1-(2-carboethoxymethoxy-4-methoxybenzyl)-5-hydroxy-3-(3,4-methylenedioxyphenyl)indole-2-carboxylate | 0.26 mmol, 150 mg | C(=O)(OCC)COC1=C(CN2C(=C(C3=CC(=CC=C23)O)C2=CC3=C(C=C2)OCO3)C(=O)OCC)C=CC(=C1)OC | C30H29NO9
reactant | ethyl bromoacetate | 0.33 mmol, 55 mg | BrCC(=O)OCC | C4H7BrO2
product | 5-Carboxymethoxy-1-(2-carboxymethoxy-4-methoxybenzyl)-3-(3,4-methylenedioxyphenyl)indole-2-carboxylic acid | C(=O)(O)COC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C(C=C1)OC)OCC(=O)O)C(=O)O)C1=CC2=C(C=C1)OCO2 | C28H23NO11
